US08871756B2
tert-Butyl (4S)-2,2-dimethyl-4-{(E)-2-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethenyl}-1,3-oxazolidine-3-carboxylate
The mixture of 2-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine (310 mg, 1.0 mmol), (S)-2,2-dimethyl-4-vinyl-oxazolidine-3-carboxylic acid tert-butyl ester (273 mg, 1.2 mmol), bis(tri-tert-butylphosphine)palladium(0) (51 mg, 0.1 mmol), methyl dicyclohexylamine (293 mg, 1.5 mmol) and N,N-dimethylformamide (6 mL) was heated with stirring in a 20 mL microwave process vial for 2.5 hours at 120° C. under microwave irradiation. The reaction mixture was diluted with ethyl acetate and washed with brine. The organic layer was dried over sodium sulfate, and then concentrated under reduced pressure to give a residue which was purified by flash column to give 380 mg of product as a white solid (yield was 76%). MS obsd. (ESI+) [(M+H)+] 500.

reactant | 2-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine | 1.0 mmol, 310 mg | ClC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2 | C19H17ClN2
reactant | (S)-2,2-dimethyl-4-vinyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.2 mmol, 273 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C=C)(C)C | C12H21NO3
reactant | methyl dicyclohexylamine | 1.5 mmol, 293 mg | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.1 mmol, 51 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-Butyl (4S)-2,2-dimethyl-4-{(E)-2-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethenyl}-1,3-oxazolidine-3-carboxylate | 380 mg, yield was 76% | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)\C=C\C1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2)C | C31H37N3O3
